US07414061B2
c) 1-[3-(2-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-ethanone
A solution of (E)- and/or (Z)-N-hydroxy-2-fluoro-benzenecarboximidoyl chloride (6.5 g, 37 mmol) in ethanol (29 mL) was added dropwise to a solution of acetylacetone (4.6 g, 46 mmol) containing sodium ethoxide (14.8 g, 46 mmol) in ethanol (83 mL) at ice-bath cooling temperature. After complete addition, the resulting mixture was allowed to warm up to room temperature and stirred for 1.5 h. The mixture was then acidified with HCl (6 N) and concentrated and the mixture extracted with ethyl acetate and then washed with water and brine and dried over sodium sulphate. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 75:25) afforded the title compound (7.0 g, 85%) which was obtained as a light yellow liquid. MS: m/e=220.1 [M+H]+.

reactant | (Z)-N-hydroxy-2-fluoro-benzenecarboximidoyl chloride | 37 mmol, 6.5 g | O\N=C(\C1=C(C=CC=C1)F)/Cl | C7H5ClFNO
reactant | acetylacetone | 46 mmol, 4.6 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | sodium ethoxide | 46 mmol, 14.8 g | [O-]CC.[Na+]
reactant | HCl | 6 N | Cl | ClH
solvent | ethanol | 29 mL | C(C)O | C2H6O
solvent | ethanol | 83 mL | C(C)O | C2H6O
product | 1-[3-(2-Fluoro-phenyl)-5-methyl-isoxazol-4-yl]-ethanone | 7.0 g, 85% | FC1=C(C=CC=C1)C1=NOC(=C1C(C)=O)C | C12H10FNO2
